US03953430
Preparation of 6,7-Dichloro-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
To a suspension of 0.40 g. of 6,7-dichloro-1,3,4,9-tetrahydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one in 2.7 ml. of dry pyridine is added, in portions, a total of 0.18 g. of N-chlorosuccinimide. The resulting solution is heated on a steam bath for 15 minutes, cooled and diluted with water. The solid which separates is collected and recrystallized from methanol-water to give off-white crystals, m.p. 270°-272°C. (dec.).

reactant | 6,7-dichloro-1,3,4,9-tetrahydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | ClC1=CC2=C(NC(C3=C(N2C)CSC3)=O)C=C1Cl | C12H10Cl2N2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | O | H2O
product | 6,7-Dichloro-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | ClC1=CC2=C(NC(C=3C(N2C)=CSC3)=O)C=C1Cl | C12H8Cl2N2OS
